US08071651B2
a) (1S,2R,4S)-7-Oxabicyclo[2.2.1]heptane-2-carboxylic acid
A solution of 1 mmol of (1S,2R,4S)-7-oxabicyclo[2.2.1]-hept-5-ene-2-carboxylic acid [185840-15-7] in 30 ml of ethanol is hydrogenated in the presence of 0.150 g of Pd/C 10% at room temperature until conversion is complete. The reaction mixture is clarified by filtration, and the filtrate is evaporated. The title compound is obtained from the residue by flash chromatography (SiO2 60 F).

reactant | (1S,2R,4S)-7-oxabicyclo[2.2.1]-hept-5-ene-2-carboxylic acid | 1 mmol | [C@@H]12[C@@H](C[C@@H](C=C1)O2)C(=O)O | C7H8O3
solvent | ethanol | 30 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.150 g | [Pd] | Pd
product | (1S,2R,4S)-7-Oxabicyclo[2.2.1]heptane-2-carboxylic acid | [C@@H]12[C@@H](C[C@H](CC1)O2)C(=O)O | C7H10O3
